US09360432B2
PIPES (Dojindo Laboratories);
MES (Dojindo Laboratories); EMSE (Daito Chemix Corporation); 4-aminoantipyrine (Saikyo Kasei), CEBP-M (enzyme having an activity of lipoprotein lipase; Asahi Kasei Corporation); GYK-301 (glycerol kinase; Toyobo Co., Ltd.); GPOM (glycerol 3-phosphate oxidase; Asahi Kasei Corporation), catalase (Sigma), peroxidase (Toyobo Co., Ltd.), sodium azide (Kanto Chemicals Co., Inc.), Emulgen B66 (Kao Corporation), Newcol 610 (Nippon Nyukazai Co., Ltd.), Newcol 2608F (Nippon Nyukazai Co., Ltd.), New Calgen GP120 (Takemoto Oil & Fat, Co. Ltd.), NIKKOL R1020 (Nikko Chemicals Co., Ltd.), Emulgen A60 (Kao Corporation), BLAUNON DSP12.5 (Aoki Oil Industrial Co., Ltd.), HI-TENOL N08 (Daichi Kogyo Co., Ltd.), Emulgen L40 (Kao Corporation), Newcol 707SF (Nippon Nyukazai Co., Ltd.), Wondersurf S1400 (Aoki Oil Industrial Co., Ltd.), New Calgen E150 (Takemoto Oil & Fat, Co. Ltd.), Sodium cholate (Acros), Emulgen 909 (POE nonylphenyl ether HLB 12.4; Kao Corporation), Emulmin NL70 (POE lauryl ether HLB 12.4; Sanyo Chemicals Industries, Ltd.).

reactant | MES | C1COCCN1CCS(=O)(=O)O | C6H13NO4S
reactant | 4-aminoantipyrine | CC1=C(C(=O)N(N1C)C=2C=CC=CC2)N | C11H13N3O
reactant | glycerol 3-phosphate | P(=O)(O)(O)OCC(CO)O | C3H9O6P
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | Sodium cholate | C[C@H](CCC(=O)[O-])[C@H]1CC[C@@H]2[C@@]1([C@H](C[C@H]3[C@]2([C@@H](C[C@H]4[C@@]3(CC[C@H](C4)O)C)O)C)O)C.[Na+]
reactant | nonylphenyl ether | C(CCCCCCCC)OC1=CC=CC=C1 | C15H24O
reactant | lauryl ether | C(CCCCCCCCCCC)OCCCCCCCCCCCC | C24H50O
solvent | glycerol | OCC(O)CO | C3H8O3
product | PIPES | C1CN(CCN1CCS(=O)(=O)O)CCS(=O)(=O)O | C8H18N2O6S2
